US09428469B2
3-Amino-5-(3,5-dichloroanilino)-s-triazole (Intermediate 2)
A solution of (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate (8 g, 30.8 mmol) and hydrazine (9.85 g, 9.65 ml, 308 mmol) in Ethanol (120 ml) was stirred at 70° C. for 3 h. It was concentrated to a small volume and water was added to give a suspension. The suspension was filtered, washed with water to give a white solid as desired product (7.44 g, 99% yield). MS +m/z: 244.0 (M+H)+

reactant | (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate | 30.8 mmol, 8 g | C(#N)\N=C(\NC1=CC(=CC(=C1)Cl)Cl)/SC | C9H7Cl2N3S
reactant | hydrazine | 308 mmol, 9.65 ml, 9.85 g | NN | H4N2
solvent | Ethanol | 120 ml | C(C)O | C2H6O
product | 3-Amino-5-(3,5-dichloroanilino)-s-triazole | 7.44 g, 99% yield | NC1=NNC(=N1)NC1=CC(=CC(=C1)Cl)Cl | C8H7Cl2N5
